US08809552B2
a) 6-(Adamantan-1-ylcarbamoyl)-1,6-diaza-spiro[3.3]heptane-1-carboxylic acid tert-butyl ester
In analogy to the experimental procedure of example 8) 1,6-diaza-spiro[3.3]heptane-1-carboxylic acid tert-butyl ester instead of 1-benzyl-1,6-diaza-spiro[3.3]heptane was converted using 1-isocyanato-adamantane instead of (3-isocyanato-propyl)-benzene into the title compound which was used directly in the next step without further purification.

reactant | 1,6-diaza-spiro[3.3]heptane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC12CNC2 | C10H18N2O2
reactant | 1-isocyanato-adamantane | N(=C=O)C12CC3CC(CC(C1)C3)C2 | C11H15NO
product | 6-(Adamantan-1-ylcarbamoyl)-1,6-diaza-spiro[3.3]heptane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC12CN(C2)C(NC21CC3CC(CC(C2)C3)C1)=O | C21H33N3O3
